US08017602B2
Step i) 1-Bromo-2-fluoro-3-(2-methoxyvinyl)benzene
A solution of potassium bis(trimethylsilyl)amide (0.5 M in toluene, 31.5 mL) was added to an ice-bath cooled, stirred slurry of (methoxymethyl)triphenylphosphonium chloride (5.07 g) in tetrahydrofuran (50 mL) keeping the temperature of the reaction mixture below 10° C. The mixture was stirred for 30 min. A solution of 3-bromo-2-fluorobenzaldehyde (2 g) in THF (5+3 mL) was added dropwise and the cold bath was removed. The mixture was stirred at ambient temperature for 1.5 h. The mixture was quenched with saturated ammonium chloride solution and extracted into ethyl acetate (70 mL). The organic phase was washed with brine, dried over magnesium sulfate, filtered and evaporated to afford crude product. Ether (50 mL) was added and the mixture was left overnight in the fridge. The solid was filtered off and the filtrate was concentrated. The crude product was purified by flash silica chromatography, elution gradient 0 to 20% ethyl acetate in isohexane to afford the subtitled compound (1.84 g) as a liquid. (5:3 mixture of isomers). 1H NMR (300 MHz, CDCl3) δ (a mixture of isomers) 7.98 (ddd, J=1.5, 7.1 and 8.4 Hz, 1H), 7.36-7.18 (m, 3H), 7.17 (d, J=13.1 Hz, 2H), 7.00-6.88 (m, 2H), 6.28 (d, J=7.1 Hz, 1H), 5.85 (d, J=13.1 Hz, 1H), 5.47 (d, J=7.1 Hz, 1H), 3.81 (d, J=6.5 Hz, 3H), 3.72 (d, J=6.5 Hz, 3H).

reactant | potassium bis(trimethylsilyl)amide | 0.5 M, 31.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 5.07 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-bromo-2-fluorobenzaldehyde | 2 g | BrC=1C(=C(C=O)C=CC1)F | C7H4BrFO
reactant | Ether | 50 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-Bromo-2-fluoro-3-(2-methoxyvinyl)benzene | 1.84 g | BrC1=C(C(=CC=C1)C=COC)F | C9H8BrFO
